US04889869
(b) 2-methylsulphonyl-4-phenylbutyric acid ethyl ester
6.648 g of methylsulphonyl-acetic acid ethyl ester are added dropwise at -30°, within 30 minutes, to 1.745 g of sodium hydroxide dispersion (55% in oil) in 40 ml of DMF. The solution is subsequently stirred for 15 minutes, then heated and, within 150 minutes, under reflux, 7.4 g of 2-phenylethyl bromide in 10 ml of DMF are added dropwise thereto. The reaction mixture is then stirred for 20 minutes, acidified with 12 ml of glacial acetic acid and concentrated by evaporation. The residue is taken up in ethyl acetate, washed with water, dried over magnesium sulphate, concentrated by evaporation and purified by flash chromatography on 700 g of silica gel 60 (eluant D). 1H-NMR (DMSO-d6): 1.35 ppm (t, 3H), 2.6-2.9 (m, 2H); 3.75 (dxd, 1H); 4.25 (q, 2H)

reactant | methylsulphonyl-acetic acid ethyl ester | 6.648 g | C(C)OC(CS(=O)(=O)C)=O | C5H10O4S
reactant | sodium hydroxide | 1.745 g | [OH-].[Na+]
reactant | 2-phenylethyl bromide | 7.4 g | C1(=CC=CC=C1)CCBr | C8H9Br
reactant | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-methylsulphonyl-4-phenylbutyric acid ethyl ester | C(C)OC(C(CCC1=CC=CC=C1)S(=O)(=O)C)=O | C13H18O4S
